US07732618B2
b.) [5-(Benzyl-isobutyryl-amino)-2-propyl-benzoimidazol-1-yl]-acetic acid.
[5-(Benzyl-isobutyryl-amino)-2-propyl-benzoimidazol-1-yl]-acetic acid tert-butyl ester (0.12 mmol) was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ7.55 (m, 1H), 7.25 (m, 6H), 7.03 (m, 1H), 5.14 (s, 2H), 4.88 (s, 2H), 3.20 (m, 2H), 2.80 (m, 1H), 1.72 (m, 2H), 1.25 (m, 6H), 0.95 (t, 3H). MS calculated for C23H27N3O3+H: 394, observed: 394.

reactant | [5-(Benzyl-isobutyryl-amino)-2-propyl-benzoimidazol-1-yl]-acetic acid tert-butyl ester | 0.12 mmol | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(C(C(C)C)=O)CC2=CC=CC=C2)CCC)=O | C27H35N3O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | [5-(Benzyl-isobutyryl-amino)-2-propyl-benzoimidazol-1-yl]-acetic acid | C(C1=CC=CC=C1)N(C1=CC2=C(N(C(=N2)CCC)CC(=O)O)C=C1)C(C(C)C)=O | C23H27N3O3
